US05202448
In the third embodiment, the addition of 10% tin chloride (based on the taxol in the starting material) to tetrabutylammonium borohydride in dichloromethane at 0° C. for one hour resulted in a 121.7% yield of Baccatin III. It would appear material other then just the cephalomannine and taxol in the starting material was cleaved to produce Baccatin III. It is hypothesized that certain taxol compounds may be bound to sugars and other biological material and that these may have been converted to Baccatin III in this process.

reactant | tin chloride | [Sn](Cl)(Cl)(Cl)Cl
reactant | taxol | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | tetrabutylammonium borohydride | [BH4-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | Baccatin III | 121.7% yield | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)OC(=O)C | C31H38O11
